US05807864
1-Allyl-3-(2,6-dimethylphenyl)-2-thioxotetrahydropyrimidin-4-one
To a cooled solution of trifluoroacetic anhydride (19.5 g), was added 9 g of 3-[1-allyl-3-(2,6-dimethylphenyl)-thioureido]propionic acid. The reaction mixture was stirred at 0°-5° C. for 4 hours, then stirred at ambient temperature for 72 hours. The reaction mixture was poured into ice-H2O, basified with saturated NaHCO3 solution, and extracted with methylene chloride (100 mL). The organic phase was dried over anhydrous magnesium sulfate, then evaporated to a gum. Purification was achieved by flash chromatography on silica gel (9:1=CH2Cl2 :MeOH). Crystallization from hexane afforded the title compound (4.2 g) as a white solid, m.p. 88°-91° C.

reactant | trifluoroacetic anhydride | 19.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3-[1-allyl-3-(2,6-dimethylphenyl)-thioureido]propionic acid | 9 g | C(C=C)N(C(=S)NC1=C(C=CC=C1C)C)CCC(=O)O | C15H20N2O2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1-Allyl-3-(2,6-dimethylphenyl)-2-thioxotetrahydropyrimidin-4-one | 4.2 g | C(C=C)N1C(N(C(CC1)=O)C1=C(C=CC=C1C)C)=S | C15H18N2OS
